US05217976
A mixture of 4-amino-2,6-diethylpyridine-3-carbaldehyde (2.0 g) and acetic anhydride (10 ml) in pyridine (20 ml) was heated at reflux for 3 hours. Volatile material was removed by evaporation and the residue was dissolved in ethyl acetate. The solution as washed with aqueous sodium carbonate solution, followed by saturated sodium chloride solution and then dried (MgSO4). Volatile material was removed by evaporation to give an oil which was purified by flash chromatography, eluting with ethyl acetate/petroleum ether (1:1 v/v) to give 4-acetylamino-2,6-diethylpyridine-3-carboxaldehyde as a yellow solid (0.9 g); m.p. 91°-92° C.; NMR (CDCl3): 1.3(t, 3H), 1.35(t, 3H), 2.26(s, 3H), 2.8(q, 2H), 3.14(q, 2H), 8.38(s, 1H), 10.4(s, 1H), 11.7(broad, 1H); mass spectrum (CI): 221 (M+H)+ ; microanalysis, found: C, 65.3; H, 7.3; N, 12.3%; C12H16N2O2 requires: C, 65.4; H, 7.3; N, 12.7%.

reactant | 4-amino-2,6-diethylpyridine-3-carbaldehyde | 2.0 g | NC1=C(C(=NC(=C1)CC)CC)C=O | C10H14N2O
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetylamino-2,6-diethylpyridine-3-carboxaldehyde | 0.9 g | C(C)(=O)NC1=C(C(=NC(=C1)CC)CC)C=O | C12H16N2O2
